### PR TITLE
[Merged by Bors] - feat(Order/SuccPred/Basic): `succ_eq_sInf`

### PR DESCRIPTION
**Pull request by vihdzp**
We prove that the successor of an element is the infimum of those greater than it, both in a complete lattice and a conditionally complete lattice with no maxima.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Order/SuccPred/Basic.lean [hunk 1]
```diff
@@ -505,18 +505,18 @@ instance [PartialOrder α] : Subsingleton (SuccOrder α) :=
...
+    succ a = sInf (Set.Ioi a) := by
+  apply (le_sInf fun b => succ_le_of_lt).antisymm
   obtain rfl | ha := eq_or_ne a ⊤
   · rw [succ_top]
     exact le_top
-  exact iInf₂_le _ (lt_succ_iff_ne_top.2 ha)
+  · exact sInf_le (lt_succ_iff_ne_top.2 ha)
 
-end CompleteLattice
+theorem succ_eq_csInf [ConditionallyCompleteLattice α] [SuccOrder α] [NoMaxOrder α] (a : α) :
```
Comment (YaelDillies) [inline Mathlib/Order/SuccPred/Basic.lean:516]: If `a` is maximal, then `succ ⊤ = ⊤ = sInf ∅ = sInf (Ioi ⊤) = sInf (Ioi a)`
````suggestion
theorem succ_eq_csInf [ConditionallyCompleteLattice α] [SuccOrder α] (a : α) :
```

Comment (vihdzp) [reply Mathlib/Order/SuccPred/Basic.lean:516]: There's two theorems in that sequence I can't find
1. `IsMax a → IsTop a` for conditionally complete lattices
2. `IsMax a → sInf Ø = a`
Any idea if we have them? If not, I can add them in this PR.

Comment (YaelDillies) [reply Mathlib/Order/SuccPred/Basic.lean:516]: `IsMax.isTop`

Comment (vihdzp) [reply Mathlib/Order/SuccPred/Basic.lean:516]: Actually, I don't believe 2 is provable. All lemmas in the definition of a conditionally complete lattice assume that the set is nonempty.

Comment (YaelDillies) [reply Mathlib/Order/SuccPred/Basic.lean:516]: Hmm yeah

File: Mathlib/Order/SuccPred/Basic.lean [hunk 2]
```diff
@@ -505,18 +505,18 @@ instance [PartialOrder α] : Subsingleton (SuccOrder α) :=
     · exact (@IsMax.succ_eq _ _ h₀ _ ha).trans ha.succ_eq.symm
     · exact @CovBy.succ_eq _ _ h₀ _ _ (covBy_succ_of_not_isMax ha)⟩
 
-section CompleteLattice
-
-variable [CompleteLattice α] [SuccOrder α]
-
-theorem succ_eq_iInf (a : α) : succ a = ⨅ (b) (_ : a < b), b := by
```
Comment (YaelDillies) [inline Mathlib/Order/SuccPred/Basic.lean:512]: Can you keep `succ_eq_iInf` around?

Comment (vihdzp) [reply Mathlib/Order/SuccPred/Basic.lean:512]: Wait, we don't seem to have the conditionally complete version of that? That's probably what we should be fixing instead.

Comment (YaelDillies) [reply Mathlib/Order/SuccPred/Basic.lean:512]: > Wait, we don't seem to have the conditionally complete version of that? That's probably what we should be fixing instead.

Yeah, because it's false. Nested conditional `iInf`s don't behave the way you expect.

Comment (vihdzp) [reply Mathlib/Order/SuccPred/Basic.lean:512]: `succ_eq_ciInf` is not true in general, and requires that the infimum be less than `sInf Ø`. Here's what the new proof of `succ_eq_iInf` looks like:
```
theorem succ_eq_iInf [CompleteLattice α] [SuccOrder α] (a : α) : succ a = ⨅ (b) (_ : a < b), b := by
  rw [succ_eq_sInf, iInf_subtype', iInf, Subtype.range_coe_subtype]
  rfl
```
Again, I feel like it's a bit dumb to have this, and if we will, why not `⨅ b ∈ Set.Iio a, b` instead? I'll add it if you really want it, but I personally don't get it.

Comment (YaelDillies) [reply Mathlib/Order/SuccPred/Basic.lean:512]: I mean, consider lemmas like `le_iInf₂`. `succ_eq_sInf` would be annoying to interface with it.

File: Mathlib/Order/SuccPred/Basic.lean [hunk 3]
```diff
@@ -513,6 +513,10 @@ theorem succ_eq_sInf [CompleteLattice α] [SuccOrder α] (a : α) :
     exact le_top
   · exact sInf_le (lt_succ_iff_ne_top.2 ha)
 
+theorem succ_eq_iInf [CompleteLattice α] [SuccOrder α] (a : α) : succ a = ⨅ (b) (_ : a < b), b := by
```
Comment (YaelDillies) [inline Mathlib/Order/SuccPred/Basic.lean:516]: Does this work now?
```suggestion
theorem succ_eq_iInf [CompleteLattice α] [SuccOrder α] (a : α) : succ a = ⨅ b > a, b := by
```

Comment (vihdzp) [reply Mathlib/Order/SuccPred/Basic.lean]: It does! That honestly kinda justifies having these lemmas at all for me.

File: Mathlib/Order/SuccPred/Basic.lean [hunk 4]
```diff
@@ -820,7 +820,7 @@ theorem pred_eq_sSup [CompleteLattice α] [PredOrder α] :
     ∀ a : α, pred a = sSup (Set.Iio a) :=
   succ_eq_sInf (α := αᵒᵈ)
 
-theorem pred_eq_iSup [CompleteLattice α] [PredOrder α] (a : α) : pred a = ⨆ (b) (_ : b < a), b :=
+theorem pred_eq_iSup [CompleteLattice α] [PredOrder α] : ∀ a : α, pred a = ⨆ b < a, b :=
   succ_eq_iInf (α := αᵒᵈ)
```
Comment (YaelDillies) [inline Mathlib/Order/SuccPred/Basic.lean:824]:
```suggestion
theorem pred_eq_iSup [CompleteLattice α] [PredOrder α] (a : α) : pred a = ⨆ b < a, b :=
  succ_eq_iInf (α := αᵒᵈ) _
```

**Review by YaelDillies — APPROVED** [review]
maintainer merge

**Review by jcommelin — COMMENTED** [review]
Thanks :tada:

bors merge
